US06339093B1
4-(3,4-Dihydro-1H-isoquinolin-2-yl)-7-methoxy-quinoline hydrochloride
The title compound, MS: m/e=291.2 (M+H+), was prepared from 4-chloro-7-methoxy-quinoline and 1,2,3,4-tetrahydroisoquinoline

reactant | 4-chloro-7-methoxy-quinoline | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
reactant | 1,2,3,4-tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
product | 4-(3,4-Dihydro-1H-isoquinolin-2-yl)-7-methoxy-quinoline hydrochloride | Cl.C1N(CCC2=CC=CC=C12)C1=CC=NC2=CC(=CC=C12)OC | InChI=1S/C19H18N2O.ClH/c1-22-16-6-7-17-18(12-16)20-10-8-19(17)21-11-9-14-4-2-3-5-15(14)13-21;/h2-8,10,12H,9,11,13H2,1H3;1H
